US06479524B1
b. 3-amino-4-iodo-benzophenone
A mixture of 5.0 g (14 mmol) of 4-iodo-3-nitro-benzophenone, 7.5 g (42 mmol) of sodium dithionite, 40 ml of pyridine and 15 ml of water is heated to 40° C. for 2 hours. Then the mixture is concentrated in vacuo, combined with ice water and extracted with ethyl acetate. The organic phase is dried with sodium sulphate and the solvent is distilled off in vacuo.

reactant | 4-iodo-3-nitro-benzophenone | 14 mmol, 5.0 g | IC1=C(C=C(C(=O)C2=CC=CC=C2)C=C1)[N+](=O)[O-] | C13H8INO3
reactant | sodium dithionite | 42 mmol, 7.5 g | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
reactant | pyridine | 40 ml | N1=CC=CC=C1 | C5H5N
solvent | water | 15 ml | O | H2O
product | 3-amino-4-iodo-benzophenone | NC=1C=C(C(=O)C2=CC=CC=C2)C=CC1I | C13H10INO
